US07799440B2
Next, 2,7-dibromo-9-phenyl-9H-fluorene-9-ol is dissolved in benzene, and benzene containing concentrated sulfuric acid is added into the solution and react for one hour. After the solution is cooled down, sodium carbonate is added into the solution. Next, a chloroform extraction is performed, and the organic layer is washed two times by water and dried by magnesium sulfate. Next, the rotary concentrator is utilized to remove the solvent, then chloroform and methanol are utilized to initiate a recrystallization reaction and produce 2,7-di bromo-9,9-diphenylfluorene.

reactant | 2,7-dibromo-9-phenyl-9H-fluorene-9-ol | BrC1=CC=2C(C3=CC(=CC=C3C2C=C1)Br)(O)C1=CC=CC=C1 | C19H12Br2O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2,7-di bromo-9,9-diphenylfluorene | BrC1=CC=2C(C3=CC(=CC=C3C2C=C1)Br)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H16Br2
